US04698352
In a mixture of 9 ml of ethanol and 9 ml of a 10% by weight aqueous sodium hydroxide solution was suspended 0.45 g of methyl 1-(4-fluorophenyl)-6-[2-(pyridin-3-yl)ethenyl]-4-oxo-1,4-dihydronicotinate and the suspension was subjected to reaction at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was adjusted to a pH of 6.0 with acetic acid, and the precipitated crystals were collected by filtration and dried to obtain 0.357 g of 1-(4-fluorophenyl)-6-[2-(pyridin-3-yl)ethenyl]-4-oxo-1,4-dihydronicotinic acid having a melting point of 250° C. or more.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 1-(4-fluorophenyl)-6-[2-(pyridin-3-yl)ethenyl]-4-oxo-1,4-dihydronicotinate | 0.45 g | FC1=CC=C(C=C1)N1C=C(C(=O)OC)C(C=C1C=CC=1C=NC=CC1)=O | C20H15FN2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 1-(4-fluorophenyl)-6-[2-(pyridin-3-yl)ethenyl]-4-oxo-1,4-dihydronicotinic acid | 0.357 g | FC1=CC=C(C=C1)N1C=C(C(=O)O)C(C=C1C=CC=1C=NC=CC1)=O | C19H13FN2O3
